US08466114B2
To an ice cold solution of (4-Benzyl-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl)-(5-bromo-2-isopropyl-phenyl)-methanol (1.3 g, 2.87 mmol) in dichloromethane (25 mL) was added Et3SiH (4.8 mL, 5.70 mmol) followed by BF3.OEt2 (0.74 mL, 5.7 mmol). The reaction mixture was stirred at room temperature overnight then quenched by the addition of aq. NaHCO3. The reaction mixture was extracted with ethyl acetate (3×30 mL), and the combined organic layers were washed with brine (30 mL) and dried over sodium sulfate. Crude product obtained after evaporation of the solvent was purified by silica gel column chromatography to furnish 4-Benzyl-6-(5-bromo-2-isopropyl-benzyl)-3,4-dihydro-2H-benzo[1,4]oxazine (1.0 g).

reactant | (4-Benzyl-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl)-(5-bromo-2-isopropyl-phenyl)-methanol | 2.87 mmol, 1.3 g | C(C1=CC=CC=C1)N1CCOC2=C1C=C(C=C2)C(O)C2=C(C=CC(=C2)Br)C(C)C | C25H26BrNO2
reactant | Et3SiH | 5.70 mmol, 4.8 mL | [SiH](CC)(CC)CC | C6H16Si
reactant | BF3.OEt2 | 5.7 mmol, 0.74 mL | B(F)(F)F.CCOCC
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 4-Benzyl-6-(5-bromo-2-isopropyl-benzyl)-3,4-dihydro-2H-benzo[1,4]oxazine | 1.0 g | C(C1=CC=CC=C1)N1CCOC2=C1C=C(C=C2)CC2=C(C=CC(=C2)Br)C(C)C | C25H26BrNO
